### PR TITLE
[Merged by Bors] - feat: uniform structure on ContinuousMapZero

### PR DESCRIPTION
**Pull request by ADedecker**
Also a bit of reorganization around the whole (short) file. This will be used for constructing non-unital functional calculi.

Co-authored-by: @j-loreaux 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean [hunk 1]
```diff
@@ -34,12 +36,7 @@ variable [TopologicalSpace X] [TopologicalSpace Y] [TopologicalSpace R]
 
 instance instFunLike : FunLike C(X, R)₀ X R where
   coe f := f.toFun
-  coe_injective' f g h := by
-    cases f
-    cases g
-    congr
-    apply DFunLike.coe_injective'
-    exact h
+  coe_injective' _ _ h := congr(⟨⟨$(h), _⟩, _⟩)
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean:39]: shouldn't there be a space before the opening parenthesis?

Comment (AntoineChambert-Loir) [reply Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean:39]: (I tried, and the answer is no, but I don't understand the trick — what does $ do?)

File: Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean [hunk 2]
```diff
@@ -66,37 +70,64 @@ instance instPartialOrder [PartialOrder R] : PartialOrder C(X, R)₀ :=
...
+
+lemma embedding_toContinuousMap : Embedding (toContinuousMap (X := X) (R := R)) where
+  induced := rfl
+  inj _ _ h := ext fun x ↦ congr($(h) x)
+
+instance [T0Space R] : T0Space C(X, R)₀ := embedding_toContinuousMap.t0Space
+instance [T1Space R] : T1Space C(X, R)₀ := embedding_toContinuousMap.t1Space
+instance [T2Space R] : T2Space C(X, R)₀ := embedding_toContinuousMap.t2Space
+
+lemma closedEmbedding_toContinuousMap [T1Space R] :
```
Comment (AntoineChambert-Loir) [inline Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean:84]: Here, it would be enough to assume that `{0 : R}` is closed.

File: Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean (hunk 1 above)
Comment (kmill) [reply Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean:39]: `congr(...)` is special syntax for creating congruence lemmas. For example, if `h : a = b`, then `congr(f $h)` gives that `f a = f b`. No space is how it's distinguished from the `congr` lemma.

The congruence in question can be written as `congr(⟨⟨$h, _⟩, _⟩)` without the additional parentheses.

File: Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean (hunk 2 above)
Comment (ADedecker) [reply Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean:84]: I feel this is a case where the loss of generality is acceptable for the following reasons:
- the version you describe would be slightly more annoying to use because we wouldn't have the typeclass system to infer the arguments in the obvious cases.
- I don't expect the more general version to be useful. First because there's not a bunch of interesting examples where the distinction would matter (e.g in a topological group the two conditions are equivalent), second because this type is really an ad-hoc definition meant for one specific application (the more general setup would be pointed continuous maps where you allow more freedom on the point).
- Finally, if someone ever needs this generalization it would be very easy to add.

Does that make sense?

Comment (AntoineChambert-Loir) [reply Mathlib/Topology/ContinuousFunction/ContinuousMapZero.lean:84]: It does, especially because the `R` is likely to be `Real`.

**Review by jcommelin — APPROVED** [review]
Thanks :tada:

bors merge
